* Extracted by KLayout with SG13G2 LVS runset on : 06/03/2026 21:14

.SUBCKT OTA_Telescopic_core VSS IB CMFB VINP VINN VOUTP VOUTN VDD
M$1 IB IB VSS VSS sg13_lv_nmos L=1.06u W=4.8u AS=1.632p AD=1.632p PS=10.28u
+ PD=10.28u
M$2 \$3 IB VSS VSS sg13_lv_nmos L=1.06u W=4.8u AS=1.632p AD=0.912p PS=10.28u
+ PD=5.18u
M$3 VSS IB \$17 VSS sg13_lv_nmos L=1.06u W=4.8u AS=0.912p AD=1.632p PS=5.18u
+ PD=10.28u
M$4 \$4 \$4 VSS VSS sg13_lv_nmos L=0.8u W=0.5u AS=0.17p AD=0.17p PS=1.68u
+ PD=1.68u
M$5 \$6 CMFB VSS VSS sg13_lv_nmos L=0.2u W=179.82u AS=34.6653p AD=34.6653p
+ PS=203.97u PD=203.97u
M$59 VOUTP IB VSS VSS sg13_lv_nmos L=1.06u W=264u AS=53.76p AD=53.76p PS=310.4u
+ PD=310.4u
M$70 \$26 \$4 \$22 VSS sg13_lv_nmos L=0.16u W=57u AS=12.255p AD=12.255p
+ PS=79.4u PD=79.4u
M$76 \$6 VINP \$26 VSS sg13_lv_nmos L=0.15u W=33u AS=7.095p AD=7.095p PS=51.4u
+ PD=51.4u
M$88 \$6 VINN \$27 VSS sg13_lv_nmos L=0.15u W=33u AS=7.095p AD=7.095p PS=51.4u
+ PD=51.4u
M$100 \$27 \$4 \$23 VSS sg13_lv_nmos L=0.16u W=57u AS=12.255p AD=12.255p
+ PS=79.4u PD=79.4u
M$106 VSS IB VOUTN VSS sg13_lv_nmos L=1.06u W=264u AS=53.76p AD=53.76p
+ PS=310.4u PD=310.4u
M$289 \$21 \$17 \$22 VDD sg13_lv_pmos L=0.5u W=121.5u AS=26.1225p AD=26.1225p
+ PS=154.65u PD=154.65u
M$295 \$24 \$17 \$23 VDD sg13_lv_pmos L=0.5u W=121.5u AS=26.1225p AD=26.1225p
+ PS=154.65u PD=154.65u
M$301 VDD \$3 \$3 VDD sg13_lv_pmos L=0.35u W=11.2u AS=2.548p AD=2.548p
+ PS=17.64u PD=17.64u
M$317 VDD \$22 VOUTP VDD sg13_lv_pmos L=0.35u W=342.5u AS=70.2125p AD=70.2125p
+ PS=479.25u PD=479.25u
M$331 \$17 \$17 VDD VDD sg13_lv_pmos L=0.35u W=2.05u AS=0.697p AD=0.3895p
+ PS=4.78u PD=2.43u
M$332 VDD \$17 \$4 VDD sg13_lv_pmos L=0.35u W=2.05u AS=0.3895p AD=0.697p
+ PS=2.43u PD=4.78u
M$333 VDD \$23 VOUTN VDD sg13_lv_pmos L=0.35u W=342.5u AS=70.2125p AD=70.2125p
+ PS=479.25u PD=479.25u
M$385 VDD \$3 \$21 VDD sg13_lv_pmos L=0.7u W=210u AS=45.15p AD=45.15p PS=257.9u
+ PD=257.9u
M$391 VDD \$3 \$24 VDD sg13_lv_pmos L=0.7u W=210u AS=45.15p AD=45.15p PS=257.9u
+ PD=257.9u
R$919 \$22 \$533 rppd w=1.5u l=0.55u ps=0 b=0 m=1
R$920 \$23 \$534 rppd w=1.5u l=0.55u ps=0 b=0 m=1
C$921 \$533 VOUTP cap_cmim w=21.4u l=21.4u A=457.96p P=85.6u m=1
C$922 \$534 VOUTN cap_cmim w=21.4u l=21.4u A=457.96p P=85.6u m=1
.ENDS OTA_Telescopic_core
